US08487108B2
To a solution of (S)-tert-butyl 2-((cyanoimino)(methylthio)methylamino)-3-cyclohexylpropyl(methyl)carbamate (200 mg, 0.543 mmol) in DMF (8 mL) and Et3N (0.5 mL) was added methyl 2-((R)-(3-chlorophenyl)((R)-piperidin-3-yl)methoxy)ethylcarbamate (178 mg, 0.543 mmol). The mixture was heated at 100-110° C. for 48 h. The reaction mixture was diluted with ethyl acetate (100 mL), washed with water (30 mL×4), dried over Na2SO4 and concentrated to give the residue, which was purified by column to give methyl 2-((R)-(3-chlorophenyl)((R)-1-(N′-cyano-N—((S)-1-cyclohexyl-3-(N-methyl-N-(tert-butoxycarbonyl)amino)propan-2-yl)carbamimidoyl)piperidin-3-yl)methoxy)ethylcarbamate (8 mg, 2%).

reactant | (S)-tert-butyl 2-((cyanoimino)(methylthio)methylamino)-3-cyclohexylpropyl(methyl)carbamate | 0.543 mmol, 200 mg | C(#N)N=C(SC)N[C@H](CN(C(OC(C)(C)C)=O)C)CC1CCCCC1 | C18H32N4O2S
reactant | methyl 2-((R)-(3-chlorophenyl)((R)-piperidin-3-yl)methoxy)ethylcarbamate | 0.543 mmol, 178 mg | ClC=1C=C(C=CC1)[C@H](OCCNC(OC)=O)[C@H]1CNCCC1 | C16H23ClN2O3
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | Et3N | 0.5 mL | CCN(CC)CC | C6H15N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | methyl 2-((R)-(3-chlorophenyl)((R)-1-(N′-cyano-N—((S)-1-cyclohexyl-3-(N-methyl-N-(tert-butoxycarbonyl)amino)propan-2-yl)carbamimidoyl)piperidin-3-yl)methoxy)ethylcarbamate | 8 mg, 2% | ClC=1C=C(C=CC1)[C@H](OCCNC(OC)=O)[C@H]1CN(CCC1)C(N[C@@H](CC1CCCCC1)CN(C(=O)OC(C)(C)C)C)=NC#N | C33H51ClN6O5
